US07067529B2
To a stirred solution of 6-hydroxy-7-methoxy-1-(3-ethoxy-benzyl)-isoquinoline-4-carbaldehyde (60 mg, 0.17 mmol) in N,N-dimethylformamide (2 mL) was added potassium carbonate (235 mg, 1.70 mmol) and 2-iodopropane (0.085 mL, 0.85 mmol) at room temperature. The reaction mixture was heated 85° C. for 2 hrs. The solvent was evaporated and the residue was purified on a flash chromatography (Merck Silica gel 60, 70–230 mesh, 50% ethyl acetate/hexane) to afford product 1-(3-ethoxy-benzyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carbaldehyde as a colorless oil. The crude product was used without further purification. To a stirred solution of 1-(3-ethoxy-benzyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carbaldehyde in acetic acid (2 mL) was added selenium dioxide (189 mg, 1.70 mmol). The reaction mixture was heated at 120° C. for 1 hr. The solvent was evaporated and the residue was diluted with dichloromethane (30 mL). The organic layer was washed with saturated aqueous sodium bicarbonate solution (20 mL), saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a crude oil. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 40% ethyl acetate/hexane) afforded 1-(3-ethoxy-benzoyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carbaldehyde as a major product (31 mg, 46% yield).

reactant | 1-(3-ethoxy-benzyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carbaldehyde | C(C)OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC(C)C)C=O)C=CC1 | C23H25NO4
reactant | selenium dioxide | 1.70 mmol, 189 mg | [Se](=O)=O | O2Se
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 1-(3-ethoxy-benzoyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carbaldehyde | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC(C)C)C=O)C=CC1 | C23H23NO5
